US04012377
β-Methyl-p-chlorocinnamamidoxime (4.64 g.) was refluxed with ethyl orthoformate (50 ml.) and two drops of boron trifluoride etherate for 45 min. Ethyl orthoformate was removed under reduced pressure and the residual brown oil was dissolved in chloroform (100 ml.) and washed consecutively with 2N-hydrochloric acid (20 ml.), saturated sodium hydrogen carbonate solution (20 ml.), and water (20 ml.). The chloroform solution was evaporated to a brown oil (ca. 4.6 g.) which was chromatographed on silica gel. Elution with benzene gave 3-(β-methyl-p-chlorostyryl)-1,2,4-oxadiazole, 2.90 g. (60%), m.p. 56°-57°, λmax (EtOH) 273 nm (ε 20760) (Found: C 59.95; H, 4.2; Cl, 15.9; N, 12.7. C11H9ClN2O requires C, 59.85; H, 4.1; Cl, 16.1; N, 12.7%).

reactant | β-Methyl-p-chlorocinnamamidoxime | 4.64 g | CC(=CC(N)=NO)C1=CC=C(C=C1)Cl | C10H11ClN2O
reactant | ethyl orthoformate | 50 ml | C(OCC)([O-])[O-]
catalyst | boron trifluoride etherate | two drops | B(F)(F)F.CCOCC
product | 3-(β-methyl-p-chlorostyryl)-1,2,4-oxadiazole | CC(=CC1=NOC=N1)C1=CC=C(C=C1)Cl | C11H9ClN2O
